US04959173
Synthesis of (S)-4-(4'-methyloctoxy)biphenylcarboxylic acid 4-n-hexyloxyphenyl ester
The procedure of Example 1 was followed except that the 4-n-octoxybiphenylcarboxylic acid and 4-(4'-methylheptyloxy)phenol were replaced by 4-(4'-methyloctoxy) biphenylcarboxylic acid and 4-n-hexyloxyphenol and the title compound was obtained.

reactant | 4-n-octoxybiphenylcarboxylic acid | C(CCCCCCC)OC=1C=C(C(=CC1)C1=CC=CC=C1)C(=O)O | C21H26O3
reactant | 4-(4'-methylheptyloxy)phenol | CC(CCCOC1=CC=C(C=C1)O)CCC | C14H22O2
reactant | 4-(4'-methyloctoxy) biphenylcarboxylic acid | CC(CCCOC=1C=C(C(=CC1)C1=CC=CC=C1)C(=O)O)CCCC | C22H28O3
reactant | 4-n-hexyloxyphenol | C(CCCCC)OC1=CC=C(C=C1)O | C12H18O2
product | (S)-4-(4'-methyloctoxy)biphenylcarboxylic acid 4-n-hexyloxyphenyl ester | C(CCCCC)OC1=CC=C(C=C1)OC(=O)C=1C(=CC=C(C1)OCCC[C@H](CCCC)C)C1=CC=CC=C1 | C34H44O4
